US04277498
2. Preparation of 2-Amino-N-(1-methylhexyl)acetamide
A solution of hydrazine hydrate (1.14 g; 22.8 mmol) and N-(1-methylhexyl)-2-phthalimidoacetamide (6.9 g; 22.8 mmol) in ethanol (50ml) was heated under reflux for 1 hour. It was then cooled to room temperature and evaporated in vacuo (Buchi, r.t.; then oil-pump, 0.5 mm/r.t./10 min.). The resultant semi-solid mixture was treated with dilutesulphuric acid (0.5 N; 85 ml) pre-cooled to 5°. The mixture was cooled to 0°, filtered and the precipitate mixed with more of the acid (2 N; 3×20 ml). The filtrate was kept in the refrigerator overnight and then filtered once more. After basification with sodium hydroxide solution (5 N; 40 ml), the mixture was extracted with dichloromethane (3×50 ml), the extracts dried (sodium sulphate) and evaporated in vacuo. The resultant oil was dried at 0.5 mm./r.t./0.5 h. T.l.c. (silica; chloroform:methanol: 3:2): 1 major spot, Rf. ca 0.5. I.v. and n.m.r. spectra were consistent with the structure. The product was purified as its hydrogen succinate.

reactant | hydrazine hydrate | 22.8 mmol, 1.14 g | O.NN
reactant | N-(1-methylhexyl)-2-phthalimidoacetamide | 22.8 mmol, 6.9 g | CC(CCCCC)NC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C17H22N2O3
solvent | ethanol | 50ml | C(C)O | C2H6O
product | 2-Amino-N-(1-methylhexyl)acetamide | NCC(=O)NC(CCCCC)C | C9H20N2O
